US08236963B2
A suspension of methyl (2Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)(cyano)acetate, intermediate 1 (10.000 g; 38.1 mmol) in dry nitromethane (61 ml; 1.14 mol) was treated with piperidine (189 μl; 1.90 mmol). After stirring for 3 hours, the mixture was diluted with ethyl acetate and filtered through silica. Evaporation of the solvent gave methyl [5-chloro-3-(nitromethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl](cyano)acetate as an oil (9.1 g, 73.8%). This was a mixture of diastereomers which was sufficiently pure for subsequent reaction (HPLC purity 97%). MS (ESI+): 324.2; MS (ESI−): 322.2

reactant | methyl (2Z)-(5-chloro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)(cyano)acetate | ClC=1C=C2/C(/C(NC2=CC1)=O)=C(/C(=O)OC)\C#N | C12H7ClN2O3
reactant | nitromethane | 1.14 mol, 61 ml | [N+](=O)([O-])C | CH3NO2
reactant | piperidine | 1.90 mmol, 189 μl | N1CCCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl [5-chloro-3-(nitromethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl](cyano)acetate | 9.1 g, 73.8% | ClC=1C=C2C(C(NC2=CC1)=O)(C[N+](=O)[O-])C(C(=O)OC)C#N | C13H10ClN3O5
